US08754110B2
An embodiment of the present disclosure includes a method of producing methyl 4-amino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)pyridine-2-carboxylate. The method comprises adding methyl isobutyl ketone to an aqueous solution comprising 4-chloro-2-fluoro-3-methoxyphenylboronic acid to form an organic phase comprising the 4-chloro-2-fluoro-3-methoxyphenylboronic acid and an aqueous phase. The organic phase and the aqueous phase are separated. The 4-chloro-2-fluoro-3-methoxyphenylboronic acid is reacted with methyl 4-(acetylamino)-3,6-dichloropyridine-2-carboxylate in methyl isobutyl ketone to produce methyl 4-(acetylamino)-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)pyridine-2-carboxylate, which is deacetylated to produce methyl 4-amino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)pyridine-2-carboxylate.

reactant | methyl 4-amino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)pyridine-2-carboxylate | NC1=C(C(=NC(=C1)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC)Cl | C14H11Cl2FN2O3
reactant | 4-chloro-2-fluoro-3-methoxyphenylboronic acid | ClC1=C(C(=C(C=C1)B(O)O)F)OC | C7H7BClFO3
solvent | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
product | methyl 4-(acetylamino)-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)pyridine-2-carboxylate | C(C)(=O)NC1=C(C(=NC(=C1)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC)Cl | C16H13Cl2FN2O4
